US07326791B2
3-bromo-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(thiazolidin-3-ylcarbonyl)benzamide
Prepared analogously to Example 1g from (1S)-2-bromo-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, TBTU, diisopropylethylamine and thiazolidine in dimethylformamide. Yield: 43%; Rf value: 0.40 (silica gel: dichloromethane/ethanol=9:1); C20H18BrClN4O2S (493.813); mass spectrum: (M−H)−=493/495/497 (bromo-chlorine isotope).

reactant | (1S)-2-bromo-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | BrC1=C(C(=O)O)C=CC(=C1)C(=O)N[C@@H](C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13BrClN3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | thiazolidine | S1CNCC1 | C3H7NS
reactant | bromo-chlorine | BrCl | BrCl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 3-bromo-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(thiazolidin-3-ylcarbonyl)benzamide | Yield: 43% | BrC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CSCC1 | C20H18BrClN4O2S
